US06043358
A solution of tetrahydrothiopyran-4-one-3-carboxylic acid, allyl ester (1.0 g, 5 mmol) in 1 mL of dimethylformamide was added to a stirred mixture of sodium hydride (60% in oil, 0.2.2 g, 5.5 mmol) and 1-iodopropane (0.934 g, 5.5 mmol) in 2.5 mL of dimethylformarnmide at 0° C. The reaction mixture was warmed to room temperature and stirred overnight. The reaction mixture was diluted with water and extracted with ether. The etheral layer was washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo and the residue purified by flash column chromatography on silica gel eluted with hexane:ether (19:1) to give 0.277 g of 3-propyl-tetrahydrothiopyran-4-one-3-carboxylic acid, allyl ester.

reactant | tetrahydrothiopyran-4-one-3-carboxylic acid | S1CC(C(CC1)=O)C(=O)O | C6H8O3S
reactant | sodium hydride | 5.5 mmol | [H-].[Na+]
reactant | 1-iodopropane | 5.5 mmol, 0.934 g | ICCC | C3H7I
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-propyl-tetrahydrothiopyran-4-one-3-carboxylic acid | 0.277 g | C(CC)C1(CSCCC1=O)C(=O)O | C9H14O3S
